US08193356B2
To a suspension of 4-hydroxy-1-phenyl-3-phenylacetyl-quinolin-2(1H)-one (255 mg, 0.72 mmol) produced in Synthesis Example 13 in DMF (7 mL) was added hydrazine monohydrate (purity of 80%, 0.12 mL), and the mixture was stirred at 100 to 110° C. for 4 hours. To the reaction solution was added a sodium hydrogencarbonate aqueous solution. The resulting precipitate was separated by filtration and dried to give 3-benzyl-5-phenyl-1H-pyrazolo[4,3-c]quinolin-4(5H)-one as a form of crystal (177 mg, yield 70%).

reactant | 4-hydroxy-1-phenyl-3-phenylacetyl-quinolin-2(1H)-one | 0.72 mmol, 255 mg | OC1=C(C(N(C2=CC=CC=C12)C1=CC=CC=C1)=O)C(CC1=CC=CC=C1)=O | C23H17NO3
reactant | hydrazine monohydrate | 0.12 mL | O.NN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 3-benzyl-5-phenyl-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | C(C1=CC=CC=C1)C1=NNC2=C1C(N(C=1C=CC=CC21)C2=CC=CC=C2)=O | C23H17N3O
